US07544695B2
N-(4-aminobiphenyl-3-yl)-4-(1,8-diazaspiro[4.5]dec-8-ylcarbonyl)benzamide
To a solution of stirring terephthaloyl chloride (50 mg, 0.246 mmol) in 3 mL dichloromethane was added tert-butyl (3-aminobiphenyl-4-yl)carbamate (70 mg, 0.246 mmol) slowly over a period of 10 minutes, followed by the addition of diisopropylethylamine (43 μL, 0.246 mmol). The reaction mixture was allowed to stir for 30 min. at room temperature. Tert-butyl 1,8-diazaspiro[4,5]decane-1-carboxylate (59 mg, 0.246 mmol) was then added, followed by the addition of diisopropylethylamine (43 μL, 0.246 mmol). The reaction mixture was allowed to stir for 1 hour at room temperature. The reaction mixture became cloudy. Argonaut MP-Carbonate scavenging resin (255 mg, 0.738 mmol) was then added and stirred overnight at room temperature. The mixture was then fully dissolved by adding 3 mL dimethylformamide, filtered from scavenging resin, and concentrated. Added dichloromethane (1 mL) and stirred to form suspension, then treated with trifluoroacetic acid (1 mL). The reaction mixture was concentrated after 2 hours of stirring at room temperature and the crude residue was purified by reverse-phase chromatography (5-75-95% acetonitrile/water with 0.1% formic acid). The appropriate fractions were combined and lyophilized. MS (ESI+): cal'd [M+H]+ 455.2, obs'd 455.1.

reactant | terephthaloyl chloride | 0.246 mmol, 50 mg | C(C1=CC=C(C(=O)Cl)C=C1)(=O)Cl | C8H4Cl2O2
reactant | tert-butyl (3-aminobiphenyl-4-yl)carbamate | 0.246 mmol, 70 mg | NC=1C=C(C=CC1NC(OC(C)(C)C)=O)C1=CC=CC=C1 | C17H20N2O2
reactant | diisopropylethylamine | 0.246 mmol, 43 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Tert-butyl 1,8-diazaspiro[4,5]decane-1-carboxylate | 0.246 mmol, 59 mg | N1(CCCC12CCNCC2)C(=O)OC(C)(C)C | C13H24N2O2
reactant | diisopropylethylamine | 0.246 mmol, 43 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Carbonate | C([O-])([O-])=O
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | N-(4-aminobiphenyl-3-yl)-4-(1,8-diazaspiro[4.5]dec-8-ylcarbonyl)benzamide | NC1=C(C=C(C=C1)C1=CC=CC=C1)NC(C1=CC=C(C=C1)C(=O)N1CCC2(CCCN2)CC1)=O | C28H30N4O2
